.SUBCKT LT1677 1 2 3 4 5
*
* input range / phase reversal protection
RIP1 1 111 1.0000e+001
RIP2 2 112 1.0000e+001
DIP1 114 111 DX
DIP2 114 112 DX
VCM 114 4 DC 3.9000e-001
*
* input stage
CIN 111 112 3.8000e-012
GRIN 111 112 111 112 1.0000e-012
VCMEP 303 3 DC 1.6
VCMEN 4 304 DC 0.8
Q1 11 112 13 Q1
Q2 12 113 14 Q2
RC1 303 11 1.4545e+003
RC2 303 12 1.4545e+003
RE1 10 13 2.6861e+000
RE2 10 14 2.6861e+000
C1 11 12 3.6473e-012
IEE 10 304 DC 1.3750e-003
D1 304 10 DX
GA 60 99 11 12 6.8750e-004
*
* noise sources
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 1.8412e+005
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 1.8412e+005
GR 99 60 605 606 3.8199e+000
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 7.9577e-002
ECM 113 111 20 99 1.0000e-006
*
* frequency shaper
RP1 601 99 1.7647e+003
CP1 60 601 2.2547e-011
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 611 99 1.3636e+004
LP2 61 611 5.4257e-004
RP22 61 99 3.7500e+004
GP2 99 6 61 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 5.5000e-010
GB 7 99 6 99 2.0146e+004
R01 7 99 3.9900e+001
R02 7 50 1.0000e-001
R03 50 5 4.0000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 2.0200e-001
VE 54 50 DC -1.7200e-001
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 2.8571e+002
ECLN 92 0 7 50 2.8571e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 5.3087e+002
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 1.3750e-003
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DVC
DP2 33 4 DVC
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.08 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL Q1 NPN (IS=9.9960e-016 BF=196428.6 XTB=-8.9146e-001 XTI=2.99924e+000 KF=5.4928e-015)
.MODEL Q2 NPN (IS=1.0004e-015 BF=458333.3 XTB=-2.7830e+000 XTI=3.00076e+000 KF=5.4928e-015)
.MODEL DR D (IS=8.2592e-016 KF=4.2062e-018 RS=0 XTI=0)
.ENDS LT1677
