.SUBCKT LT1722 3 2 7 4 6
XOP1 3 2 7 4 6 LT1722MD
** nested subcircuit: LT1722MD
.SUBCKT LT1722MD 1 2 3 4 5
*
* input protection
DIP1 1 2 DX
DIP2 2 1 DX
*
* ESD clamp
DESD1 1 3 DX
DESD2 4 1 DX
DESD3 2 3 DX
DESD4 4 2 DX
*
* input stage
CIN 1 2 1.9953e-013
CIC1 1 99 1.7958e-012
CIC2 2 99 1.7958e-012
GRIN 1 2 1 2 1.9481e-005
Q1 11 2 13 Q1
Q2 12 111 14 Q2
RC1 3 11 8.8445e+002
RC2 3 12 8.8445e+002
RE1 10 13 7.7211e+000
RE2 10 14 7.7211e+000
C1 11 12 5.9983e-013
IEE 10 4 DC 2.2614e-003
GSR 10 4 11 12 2.8400e-005
D1 4 10 DX
GA 60 99 11 12 1.1306e-003
*
* noise sources
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 1.1590e+004
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 1.1590e+004
GR 99 60 605 606 5.9477e+000
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 2.2736e-003
ECM 111 1 20 99 5.6234e-006
*
* frequency shaper
RP1 601 99 1.7647e+003
CP1 60 601 2.2547e-012
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 611 99 1.3636e+004
LP2 61 611 5.4257e-005
RP22 61 99 3.7500e+004
GP2 99 6 61 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 2.4803e-011
GB 7 99 6 99 4.1337e+001
R01 7 99 1.3200e+001
R02 7 50 1.0000e-001
R03 50 5 1.3300e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.3049e+000
VE 54 50 DC -1.2920e+000
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 6 56 3 1.0000e+000
GVLN 99 6 58 4 1.0000e+000
ECLP 91 0 7 50 1.0417e+002
ECLN 92 0 7 50 1.1905e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.7896e+000
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 1.4386e-003
*
GPC 31 0 7 50 1.0000e+001
DPC1 3 31 DVC
DPC2 32 4 DVC
RPC1 31 32 1.0E6
RPC2 31 33 9.7531
EPC 33 32 3 4 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1 CJO=0 IBV=1.0E-10 TT=0)
.MODEL Q1 NPN (IS=9.9982e-016 BF=30150.5 XTB=6.5704e-001 XTI=3.01768e+000 KF=1.6457e-015)
.MODEL Q2 NPN (IS=1.0002e-015 BF=34789.0 XTB=7.6702e-001 XTI=2.98232e+000 KF=1.6457e-015)
.MODEL DR D (IS=8.2592e-016 KF=1.6326e-016 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
.ENDS LT1722MD
** end nested subcircuit: LT1722MD
.ENDS LT1722
