.SUBCKT  LT1783  3 4  6 2 1 5
XOP1 3 4 6 2 1 5 LT1783_MD
** nested subcircuit: LT1783_MD
.SUBCKT LT1783_MD 1 2 3 4 5 8
*
* input range / phase reversal protection
RIP1 1 111 1.000e+003
RIP2 2  112 1.000e+003
DIP1 4 111 DX
DIP2 4 112 DX
*
* bias current
IBP 303 0 DC -43.0E-09 
RBP 303 0 1E6 TC=-3.0E-03 
IBN 304 0 DC -47.0E-09 
RBN 304 0 1E6 TC=-2.8E-03 
 *
GCV1 0 306 POLY(3) 3 0 1 0 2 0 -0.9E-4  1.0E-4  -0.5E-4  -0.5E-4 
RCV1 306 0 1.0E5 
DCV1 307 306 DX 
DCV2 308 307 DX 
VCV1 308 0 DC -0.35 
RCV2 307 0 1.0E5 
*
GCV2 0 309 POLY(3) 3 0 1 0 2 0 0.0E-4 1.0E-4 -0.5E-4 -0.5E-4 
RCV3 309 0 1.0E5 
DCV3 310 309 DX 
DCV4 311 310 DX 
VCV2 311 0 DC -0.35 
RCV4 310 0 1.0E5 
*
GBP 1 99 POLY(3) 303 0 307 0 310 0   0.0   1.0E-6   165.4E-9   32.5E-6 
GBN 2 99 POLY(3) 304 0 307 0 310 0   0.0   1.0E-6   165.8E-9   32.5E-6 
*
* offset voltage
ROFF1 301 0 1.000e+00 TC=-2.0000e-06 
ROFF2 302 0 1.00041e+00 
IOFF1 0 301 DC 1 
IOFF2 0 302 DC 1 
EOFF  114 112 301 302 1 
ROFF3 114 112 1.0000e+09 
*
* noise voltage
GR 99 60 605 606 1.6914e+000
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
GCM1 0 20 POLY(2) 111 0 112 0 0 5.0000e-004 5.0000e-004
RCM1 21 0 1.000000e+003
RCM2 20 0 1.0000e+006
LCM 20 21 6.6315e-003
ECM 113 111 20 0 1.0000e-005
RCM3 113 111 1E12 
*
* input stage 
CIN 111 112 4.3e-12 
RDIFF 111 112 1.3e+06
GIN 99 10 113 114  2.872E-2
RCC 10 99 1.63e+004
DSRP 10 11 DX 
VSRP 11 99 DC 35.7
DSRN 12 10 DX 
VSRN 12 99 DC -28.0
GA 60 99 10 99 0.4e-5 
*
* frequency shaper
RP1 601 99 2.5000e+004
CP1 60 601 9.0946e-011
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 61 99 1.0000e+004
CP2 61 99 2.6526e-011
GP2 99 62 61 99 1.0000e-004
RP3 621 99 1.5000e+004
LP3 62 621 2.3873e-003
RP33 62 99 3.0000e+004
GP3 99 6 62 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 2.3333e-010
GB 7 99 6 99 2.6997e+004
R01 7 99 2.9900e+001
R02 7 50 1.0000e-001
R03 50 51 4.2974e+001
R04 51 52 7.0264e+000
GSW3 52 5 POLY(2) 812 99 52 5 0 0 1e-9 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
RGSW3 52 5 1.0000e+010
R05 5 99 5.9379e+009
DOP 50 51 DOUT
DON 51 50 DOUT
VC 53 50 DC 1.5488e-001
VE 54 50 DC -9.9302e-002
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 3.3333e+002
ECLN 92 0 7 50 2.5000e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 6.8265e+001
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
GIP 3 4 POLY(1) 99 812 5.0000e-006 4.153e-005
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DVC
DP2 33 4 DVC
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.08 1.0
*
* shutdown stage
RDIS1 8 4 1.0000e+006
RDIS2 8 808 1.0000e+002
CDIS1 808 4 3.0000e-012
GREF 4 801 3 4 2.5000e-004
RREF 801 4 1.0000e+003
GDIS 99 803 808 801 1.0000e-002
RDIS3 803 99 1.0000e+004
VDIS2 804 99 DC -8.0000e-002
VDIS3 805 99 DC -4.9210e+000
DDIS2 803 804 DVC
DDIS3 805 803 DVC
EDIS 810 99 803 99 1.0000e+000
RDIS5 810 812 5.3707e+003
RDIS6 812 811 1.7393e+002
DDIS4 810 811 DVC
CDIS3 812 99 1.0000e-008
EDIS2 813 99 POLY(1) 812 99 -5.0 -1.0
RDIS7 813 99 1.0000e+006
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL DR D (IS=8.2592e-016 KF=2.9140e-018 RS=0 XTI=0)
.MODEL DOUT D (IS=8.0000e-006 RS=0 XTI=0)
*
.ENDS LT1783_MD
** end nested subcircuit: LT1783_MD
.ENDS LT1783
