.SUBCKT LT1787     1   2   4   5   6   7   8
*
* input gain setting resistors
RG1A 2 1  1.25E3
RG1B 1 11 1.25E3
RG2A 7 8  1.25E3
RG2B 8 12 1.25E3
* input bias currents
*VS-
GIBN  0  20  2  7  1.0E-3
RIBN 20  0  1.0E3 
DIBN 20  21 DVC
VIBN 21  0 DC -0.135
RTCN 24  0  1.0E5  TC=2.45E-3
VTCN  24  0  DC 4.7
FIBN  2  4  POLY(2)  VIBN  VTCN  0   0  -1.0  1.6E3
*VS+
GIBP  0  22  7  2   1.0E-3
RIBP 22  0  1.0E3
DIBP 22  23  DVC
VIBP 23  0 DC  -0.125
RTCP 25  0  1.0E6  TC=4.0E-3
VTCP  25  0  DC 4.0
FIBP  7  4  POLY(2)  VIBP  VTCP  0   0  -1.0  1.5E3
* amplifier
*  double pole at 320 KHz 
RINP  12 30  5.0E7
RINN 11 30  5.0E7
RCM  30  4  1.0E8
GIN  4  31  12  11  1.0E-3
RP1  31  4  1.0E3
CP1  31  4   5.0E-10
GP2  4  32  31  4  1.0E-3
RP2  32  4  1.0E3
CP2  32  4   5.0E-10
* input offset voltage / no load output current and voltage
RNL  50  0  1.0E4  TC=7.2E-3
GNL  0  50  POLY(1)  7  4  4.7E-4   -1.2E-6
* current mirror output
GOUT  4  5  POLY(2) 32  4  50  0  2.0E-8   4.08E-4  -5.6E-9
ROUT  5  6  20E3
* neg. output voltage limiter to VEE + 30mV  
DOVN  40  5  DVC
VOVN  40  4  0.086
* maximum negative swing to  Vbias - 6.2 V
EVCN 41  0  POLY(1)  6  0  -6.2  1.0
DVCN 41  5   DVC
* pos. output voltage limiter to VS+ - 0.75V  
EVCP 42  0  POLY(1)  7  0  -0.82  1.0
DVCP 5  42  DVC
* maximum linear positive swing to Vbias+ 10V
DNLP 5  43  DVC
ENLP 43  44  POLY(1)  6  0  10.3  1.0
RNLP  44  0  30E3
*
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-1.3 N=0.1 EG=0.1)
*
.ENDS LT1787
