.SUBCKT LT1795 1 2 3 4 5 6 120 130
*
*RTEST 3 120 0.1
*
*RTEST 6 0 0.1
*VTEST 120 0 DC 2.5
*
* input stage
RINP 1 99 1.0000e+009
CINP 1 99 2.0000e-012
IBP 301 303 DC 1.3200e-005
RBP 301 303 TCRBP 1E5
VBP 303 0 DC 1.1200e+000
GBP 1 99 POLY(2) 301 0 1 0 0 1.0E-5 1.0000e-007
IBN 302 304 DC 2.8667e-005
RBN 302 304 TCRBN 1E5
VBN 304 0 DC 1.8667e+000
GBN 2 99 POLY(2) 302 0 2 0 0 1.0E-5 1.0000e-006
.MODEL TCRBP RES (TC1=6.0606e-003)
.MODEL TCRBN RES (TC1=4.6512e-003)
RINN 14 99 1.0000e+009
CINN 2 99 1.0000e-012
GA1 99 11 1 99 2.0408e-002
GA2 11 99 11 99 2.0408e-002
VSENS 11 16 DC 0.0
LINN 16 14 2.5000e-009
RSW1 2 14 1.0000e+009
GSW1 2 14 POLY(2) 812 99 2 14 0 0 8.0940e-006 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
GSW2 59 99 POLY(2) 806 99 59 99 0 0 1e-12 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
IOFF 501 0 DC 3.0000e-003
ROFF 501 0 ROVD 1
.MODEL ROVD RES (TC1=3.3333e-003)
GOFF 59 99 501 0 2.0408e-002
FA 99 59 VSENS 1.0
*
* noise sources
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI1
DR2 102 0 DRI1
GR1 99 1 101 102 9.6600e-002
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI2
DR4 104 0 DRI2
GR2 99 2 103 104 1.4490e+000
IR5 0 601 DC 1
IR6 0 602 DC 1
DR5 601 0 DRI3
DR6 602 0 DRI3
GR3 59 99 601 602 3.4776e+000
*
* common mode rejection
GCM1 99 11 POLY(2) 2 0 1 0 0 3.9871e-006 3.9871e-006
*
* frequency shaper
RP0 59 99 1.0000e+003
CP0 59 99 3.0027e-012
GP0 99 60 POLY(2) 59 99  822  0  0 3.5551e-004 0 0 4.6881e-005
RP1 60 99 1.0000e+004
CP1 60 99 1.8724e-014
GP1 99 660 60 99 1.0000e-004
*
* compensation
CCOMP 2 130 1.0E-12
RCOMP 130 5 1.0E12
*
* slew rate limiter
RSR 660 66 1.0000e-001
ESRP 96 0 POLY(2) 660 66   822 0  0 5.2703e+003 0 0 -2.5273e+002
ESRN 97 0 POLY(2) 660 66   822 0  0 7.9907e+003 0 0 -4.1757e+002
DSRP 96 95 DX
DSRN 95 97 DX
VSR 95 0 DC 0
FSR 660 99 VSR 1.0000e-002
*
* transimpedance stage and dominant pole
RTR 66 99 2.1600e+005
C1 66 99 4.1153e-012
DC 66 53 DVC
DE 54 66 DVC
VC 3 53 DC 1.5740e+000
VE 54 4 DC 1.5740e+000
*
* output stage
GB 99 7 66 99 6.0606e-001
ROUT 7 99 1.6500e+000
FB 7 99 VSCL 1.3764e-001
VSCL 90 0 DC 0
DLP 91 90 DX
DLN 90 92 DX
ESCLP 91 0 POLY(2) 7 51   822 0  0 2.2961e+001 0 0 -9.4283e-001
ESCLN 92 0 POLY(2) 7 51   822 0  0 2.2961e+001 0 0 -9.4283e-001
R01S 7 51 1.0000e-001
GSW3 51 5 POLY(2) 812 99 51 5 0 0 1e-9 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 1.024e-5
CGSW3 51 5 8.0000e-012
R0P 5 0 5.9379e+008
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
GIP 3 4 POLY(2) 99 803   822 0  6.3272e-005 1.4743e-004 0 0 4.2428e-004
RP 3 4 1.0000e+006
GV 31 0 7 51 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
* shutdown stage
*RDIS1 6 3 1.0000e+012
*DDIS1 801 6 DX
*VDIS1 802 801 DC 6.0000e-001
*RDIS2 3 802 4.8134e+004
*
RDIS1 120 801 1.0E2
HDIS 801 802 POLY(1) VREF 0.8 1.0E6
VDIS1 802 823 DC 0
DDIS1 823 6 DX
GREF 0 820 120 801 3.481E-2
RREF1 820 0 1.0E3
DREF 820 821 DVC
VREF 821 0 DC 0.92
GBUF 0 822 120 801 1.0E-3
*
* if Rshdn is connected between VDD and SHDN use RBUF1
RBUF1  822 0 4.8134e+005 
* if Rshdn is connected between SHDNREF and GND use RBUF2
*RBUF2  822 0 9.6268e+005 
*
FDIS 99 803 POLY(1) VDIS1 1.3819e-003 -3.9853e+001
RDIS3 803 99 1.0000e+005
VDIS2 804 99 DC -8.0600e-001
VDIS3 805 99 DC -4.1950e+000
DDIS2 803 804 DX
DDIS3 805 803 DX
CDIS2 803 99 3.0000e-012
EDIS 810 99 803 99 1.0000e+000
RDIS5 810 812 1.6784e+003
RDIS6 812 811 3.5008e+003
DDIS4 810 811 DX
CDIS3 812 99 1.0000e-009
GDIS2 99 806 POLY(1) 812 99 -5.0E-3 -1.0E-3
RDIS4 806 99 1.0000e+003
CDIS4 806 99 8.3919e-011
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-1.3 N=0.1 EG=0.1)
.MODEL DRI1 D (IS= 8.2592e-016 KF= 3.2074e-016 RS=0 XTI=0)
.MODEL DRI2 D (IS= 8.2592e-016 KF= 3.2074e-016 RS=0 XTI=0)
.MODEL DRI3 D (IS= 8.2592e-016 KF= 6.4148e-017 RS=0 XTI=0)
.ENDS LT1795
